US06852713B2
Step 8E: 1-(2-Allylamino-2-(S)-phenyl-ethyl)-pyrrolidin-3-(S)-ol
To a stirred solution of 2-allylamino-1-(3-(S)-hydroxy-pyrrolidin-1-yl)-2-(S)-phenyl-ethanone (5.65 g, 15.1 mmol) in anhydrous tetrahydrofuran (60 cm3) cooled to 0° C. in an ice bath was added a 1 M solution of lithium aluminum hydride (22.6 cm3, 22.7 mmol) over 20 minutes. The solution was allowed to warm and stir at ambient temperature for 16 hours. The reaction was cooled to 0° C. in an ice bath and quenched with water (0.860 cm3), 15% sodium hydroxide (0.860 cm3) and water (2.60 cm3) to form a white flocculate precipitate. The mixture was vacuum filtered, the precipitate washed with tetrahydrofuran (5×30 cm3) and the filtrate volatile fractions removed in vacuo to afford a crude yellow oil. The crude product was purified by column chromatography (silica, eluting with dichloromethane-methanol-ammonium hydroxide 97:3:0 to 90:10:1) to afford the title compound as a yellow viscous oil (2.54 g, 68.3%) with a positive ion ESI (M+H)+247.2.

reactant | 2-allylamino-1-(3-(S)-hydroxy-pyrrolidin-1-yl)-2-(S)-phenyl-ethanone | 15.1 mmol, 5.65 g | C(C=C)N[C@H](C(=O)N1C[C@H](CC1)O)C1=CC=CC=C1 | C15H20N2O2
reactant | lithium aluminum hydride | 22.7 mmol, 22.6 cm3 | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 60 cm3 | O1CCCC1 | C4H8O
product | 1-(2-Allylamino-2-(S)-phenyl-ethyl)-pyrrolidin-3-(S)-ol | 2.54 g, 68.3% | C(C=C)N[C@H](CN1C[C@H](CC1)O)C1=CC=CC=C1 | C15H22N2O
